US03976633
Oxalyl chloride (25.0 g., 0.2 mol.) is added to a suspension of 16.4 g. (0.14 mol.) of butyl carbamate in 75 ml. of chloroform. After cessation of gas evolution, the reaction mixture is refluxed in a nitrogen atmosphere for 12 hours. The mixture is cooled, filtered and the filtrate is distilled in vacuo to give butoxycarbonyl isocyanate.

reactant | Oxalyl chloride | 0.2 mol, 25.0 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | butyl carbamate | 0.14 mol | C(N)(OCCCC)=O | C5H11NO2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | butoxycarbonyl isocyanate | C(CCC)OC(=O)N=C=O | C6H9NO3
